* Z:\mnt\Data\Workbench\LTSpice\Projects\PLL\PLL_V2\PLL.asc
XU3 0 VcoIn2 VcoOut2 Vcc CV2 VcoIn2 NC_01 Vcc NE555
R7 N015 XORout 10k
C3 0 N015 10n
XU5 N014 N011 Vcc 0 CV2 NC_02 NC_03 LT1008
R8 CV2 N011 1k
R9 N011 SignalOut 10k
R10 N014 Vcc 5k
R11 0 N014 5k
XU6 N015 LowPassOut Vcc 0 LowPassOut NC_04 NC_05 LT1008
Vpower Vcc 0 5 Rser=10
XU8 N005 N001 Vcc 0 N002 NC_06 NC_07 LT1008
XU9 N005 N003 Vcc 0 VcoIn1 NC_08 NC_09 LT1008
R20 N005 Vcc 5k
R21 0 N005 5k
R22 N003 N002 5k
R23 VcoIn1 N003 5k
R24 N001 VcoOut1 10k
C4 N002 N001 10n
XU10 0 VcoIn1 VcoOut1 Vcc CV1 VcoIn1 NC_10 Vcc NE555
XU11 N006 N004 Vcc 0 CV1 NC_11 NC_12 LT1008
R25 CV1 N004 1k
R26 N004 SignalIn 10k
VsignalIn SignalIn N007 PULSE(0 1 2m 100u 100u 0.9m 2m 5)
R27 N006 Vcc 5k
R28 0 N006 5k
XU1 N012 N008 Vcc 0 N009 NC_13 NC_14 LT1008
XU2 N012 N010 Vcc 0 VcoIn2 NC_15 NC_16 LT1008
R1 N012 Vcc 5k
R2 0 N012 5k
R3 N010 N009 5k
R4 VcoIn2 N010 5k
R5 N008 VcoOut2 10k
C1 N009 N008 10n
R32 Vcc N016 10k
R33 N016 0 10k
R34 N016 N013 10k
XU13 N016 XORout Vcc 0 XORout NC_17 NC_18 LT1008
XU12 N027 N021 Vcc 0 N022 NC_19 NC_20 LT1008
R6 N021 LowPassOut 1k
R29 N022 N021 1k
R30 0 N027 5k
R31 N027 Vcc 5k
XU14 N027 N023 Vcc 0 N024 NC_21 NC_22 LT1008
R35 N023 N022 1k
R36 N024 N023 3k
V1 NC_23 0 2
R37 N030 N024 10k
C2 0 N030 10n
XU15 N030 SignalOut Vcc 0 SignalOut NC_24 NC_25 LT1008
VsignalIn1 P001 P002 PULSE(0 1 17m 100u 100u 0.9m 1m 1)
VsignalLow P002 0 2V
VsignalIn2 N007 P003 PULSE(0 1 13m 100u 100u 0.9m 1m 1)
VsignalIn3 P003 P001 PULSE(0 1 14m 100u 100u 0.9m 2m 1)
Q1 N017 N019 N020 0 NPN
Q2 N017 N018 N020 0 NPN
Q3 N020 N025 0 0 NPN
Q4 N025 N026 N028 0 NPN
Q5 N028 N029 0 0 NPN
R12 N029 VcoOut1 10k
R13 N026 VcoOut2 10k
R14 N018 VcoOut2 10k
R15 N019 VcoOut1 10k
R16 N017 Vcc 10k
R17 N025 Vcc 10k
XU4 N017 N013 Vcc 0 N013 NC_26 NC_27 LT1008
.model NPN NPN
.model PNP PNP
.lib C:\users\vitinho\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 20ms startup
* VCOref
* VCOfeedback
* Low pass filter
* Reference VCO frequency controller
* Reference VCO frequency generator
* Feedback VCO frequency generator
* Buffer
* Buffer
* FeedbackVCO frequency controller
* Voltage control
* Gain
* Buffer
* Buffer
.lib LTC.lib
.lib NE555.sub
.backanno
.end
