* Z:\media\vitinho\Data\Workbench\LTSpice\Projects\PLL\PLLv3\pll4.asc
R1 N007 XORout {Rf}
C1 0 N007 {Cf}
VsignalIn1 SignalIn N001 PULSE(0 0.5 {2*Ts} 100u 100u {0.9*Ts} {2*Ts} 5)
VsignalIn2 P001 P002 PULSE(0 0.5 {17*Ts} 100u 100u {0.9*Ts} {1*Ts} 1)
VsignalLow1 P002 0 0.25V
VsignalIn3 N001 P003 PULSE(0 0.5 {13*Ts} 100u 100u {0.9*Ts} {1*Ts} 1)
VsignalIn4 P003 P001 PULSE(0 0.5 {14*Ts} 100u 100u {0.9*Ts} {2*Ts} 1)
XVCO1 SignalIn VcoOut1 NC_01 vco_comp params: fo={fo} k={k} Vcc={Vcc}
XVCO2 SignalOut VcoOut2 NC_02 vco_comp params: fo={fo} k={k} Vcc={Vcc}
XU1 N007 LowPassOut Vcc 0 LowPassOut level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU4 LowPassOut N006 Vcc 0 N006 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU5 N005 N004 Vcc 0 XORout level2 Avol=1Meg GBW=10Meg Slew={Sl} Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU6 N002 Ref2 Vcc 0 N003 level2 Avol=1Meg GBW=10Meg Slew={Sl} Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R9 N002 VcoOut1 {R}
R10 N002 0 {R}
R11 N004 N003 {R}
R12 Vcc N004 {2*R}
R13 N002 VcoOut2 {R}
R14 N005 VcoOut1 {R}
R15 N005 VcoOut2 {R}
R16 0 N005 {R}
R17 Vcc N005 {R}
XU8 N014 SignalOut Vcc 0 SignalOut level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R20 N006 N014 {11*R}
R21 N014 0 {R}
V1 Vcc 0 {Vcc}
R2 XORout N010 {Rf}
C2 N010 N011 {Cf}
XU2 Ref2 N010 Vcc 0 N011 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 Vcc Ref2 {R}
R4 Ref2 0 {R}
XU7 Ref2 N008 Vcc 0 N009 level2 Avol=1Meg GBW=10Meg Slew={Sl} Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R5 N008 LowPassOut {R}
R6 N009 N008 {R}
R7 N011 N012 {Rf/1000}
C3 N012 N013 {Cf}
XU9 Ref2 N012 Vcc 0 N013 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg

* block symbol definitions
.subckt vco_comp Vin A nA
V1 Vcc 0 {Vcc}
R1 Vcc N001 1k
R2 N001 0 1k
XU3 Ref2 Comparator Vcc 0 nA level2 Avol=1Meg GBW=10Meg Slew={Sl} Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU4 N004 N003 Vcc 0 Comparator level2 Avol=1Meg GBW=10Meg Slew={Sl} Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R9 A N004 {2*R}
R13 nA N003 {2*R}
R14 N003 Vcc {R}
R15 Vcc N004 {R}
V2 Vx Vin {Vin0}
XU5 N001 Ref2 Vcc 0 Ref2 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
Q1 N005 N006 0 0 2N2222
R3 Vcntrl N006 {Vcc*Ro/0.6/Coeff}
C2 N006 0 {Co}
R4 Vcc N005 {R}
Q2 N008 N009 0 0 2N2222
R5 Vcntrl N009 {Vcc*Ro/0.6/Coeff}
C1 N009 0 {Co}
R6 Vcc N008 {R}
XU1 Ref2 N005 Vcc 0 I2 level2 Avol=1Meg GBW=10Meg Slew={Sl} Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU2 Ref2 N008 Vcc 0 I1 level2 Avol=1Meg GBW=10Meg Slew={Sl} Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU6 N002 Vcntrl Vcc 0 Vcntrl level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R8 Vcntrl Ref2 {R}
R10 N002 Vx {1/Y1}
R11 N002 Vcc {1/Y2}
R12 0 N002 {1/(Y-Y1-Y2)}
Q3 N009 N010 0 0 2N2222
Q4 N006 N007 0 0 2N2222
R16 N007 nA {R}
R17 N010 A {R}
R18 I2 N003 {R}
R19 I1 N004 {R}
XU7 Comparator Ref2 Vcc 0 A level2 Avol=1Meg GBW=10Meg Slew={Sl} Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.param Co=To/10000 Ro=To/Co/(1+0.693147)/2 Rref=10k
.param Vin=0
.param To={1/fo} R=10k
.param Coeff=1.9*100/104/1.00656 Coeff_k=5000/4000 kcorr=k*Coeff_k
.param R2 = 1k Y2=1/R2 Y={2*Y2/(1 - kcorr*Vin0/fo)} Y1={Y*kcorr*Vcc/2/fo}
.param Vin0=3
.param Sl=500Meg
.ends vco_comp

.model NPN NPN
.model PNP PNP
.lib C:\users\vitinho\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran {20*Ts} startup uic
* Low pass filter
* Reference VCO frequency generator
* Feedback VCO frequency generator
* Buffer
* Buffer
.param fo=10k k=200 Vcc=12
* XOR gate
.param R=10k
.param Cf=10n Rf=f3dB/Cf/fo
* Buffer
.param Sl=500Meg
.param fs = 100 Ts=1/fs
.param f3dB=fo/10
* Integrator filter
* Integrator filter
.lib UniversalOpAmp2.lib
.backanno
.end
